US07528173B2
To a solution of 2-(4-(benzyloxycarbonylamino)phenyl)-3-(acetylthio)-propanoic acid ethyl ester (0.2 g, 0.54 mmol) in 5 mL of methylene chloride was added 5 mL of trifluoroacetic acid. After 0.5 hours, the reaction mixture was concentrated in vacuo. The compound was purified by flash chromatography through silica gel (1/1 hexanes/ethyl acetate) to afford 2-(4-aminophenyl)-3-(acetylthio)propanoic acid ethyl ester (0.12 g, 85%).

reactant | 2-(4-(benzyloxycarbonylamino)phenyl)-3-(acetylthio)-propanoic acid ethyl ester | 0.54 mmol, 0.2 g | C(C)OC(C(CSC(C)=O)C1=CC=C(C=C1)NC(=O)OCC1=CC=CC=C1)=O | C21H23NO5S
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-aminophenyl)-3-(acetylthio)propanoic acid ethyl ester | 0.12 g, 85% | C(C)OC(C(CSC(C)=O)C1=CC=C(C=C1)N)=O | C13H17NO3S
